US09283229B2
Step 1: Synthesis of 3-(2-(dimethylamino)ethoxy)-4-methoxybenzaldehyde
To a solution of 2-(dimethylamino)ethanol (5.0 g, 56.0 mmol) and triethylamine (8.5 g, 84.0 mmol) in anhydrous DCM (50 mL) was added methanesulfonyl chloride (7.1 g, 62.0 mmol) at 0° C. under N2. The mixture was stirred at 0° C. for 1 hour The solvent was removed in vacuo (6.0 g, yield 65%), and the crude was taken up in CH3CN (100 mL). 3-hydroxy-4-methoxybenzaldehyde (5.5 g, 36.0 mmol) and potassium carbonate (13.8 g, 100.0 mol) was added and reaction was refluxed under N2 overnight. An aqueous/EtOAc workup was followed, and crude was purified by silica gel column chromatography (PE: EtOAc=3:1) to give product (2.5 g, yield 31%) as yellow solid.

reactant | 2-(dimethylamino)ethanol | 56.0 mmol, 5.0 g | CN(CCO)C | C4H11NO
reactant | triethylamine | 84.0 mmol, 8.5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 62.0 mmol, 7.1 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-hydroxy-4-methoxybenzaldehyde | 36.0 mmol, 5.5 g | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | potassium carbonate | 100.0 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2-(dimethylamino)ethoxy)-4-methoxybenzaldehyde | 2.5 g, yield 31% | CN(CCOC=1C=C(C=O)C=CC1OC)C | C12H17NO3
